US08283353B2
4′-{[5-oxo-7-propyl-4-(4,5,6,7-tetrahydro-1H-indazol-5-yl)-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
A mixture of 4′-{[5-oxo-4-(4-oxocyclohexyl)-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (1.0 g), 1,1-dimethoxy-N,N-dimethylmethanamine (2.5 mL) and N,N-dimethylformaldehyde (2.5 mL) was stirred at 85° C. for 11 hr. Ethyl acetate and water were added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was dissolved in ethanol (10 mL). Hydrazine monohydrate (1 mL) was added, and the mixture was heated under reflux for 1.5 hr. Ethyl acetate and water were added to the reaction mixture. After evaporation of the solvent under reduced pressure, the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.74 g, 71%).

reactant | 4′-{[5-oxo-4-(4-oxocyclohexyl)-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 1.0 g | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)C2CCC(CC2)=O | C28H27N5O2
reactant | 1,1-dimethoxy-N,N-dimethylmethanamine | 2.5 mL | COC(N(C)C)OC | C5H13NO2
reactant | N,N-dimethylformaldehyde | 2.5 mL | CN(C)C=O | C3H7NO
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4′-{[5-oxo-7-propyl-4-(4,5,6,7-tetrahydro-1H-indazol-5-yl)-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.74 g, 71% | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)C2CC=1C=NNC1CC2 | C29H27N7O
